data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9961,"C[C+:1]=O.FC(F)(F)C1=CC=C2C=C[CH:2]=[CH:3]C2=C1|((2, 3), 1)"
train,pmechdb_split_0,0,2500,"CCC(C)([O-])[N+:1]1([H:2])CCCC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9918,"FC(F)(F)C1=CC=C2C=C[CH:1]=[CH:2]C2=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6446,"C[CH:1]=[CH:2][O-:3].[H:4][OH:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2183,"C=CCC(OC(CCC1=CC=C(OCC2=CC=CC=C2)C=C1)OC(C)=[O:1])C1=CC=C(OS(=O)(=O)C2=CC=C(C)C=C2)C=C1.[Br][Sn:2]([Br])([Br])[Br]|(1, 2)"
train,pmechdb_split_0,0,4504,"C[C:1](Cl)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,323,"C[C:1](OC(=O)CC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6031,"CCN(CC)[C:1](C)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6648,"CCCCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(C)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,4426,"CCO.CC[N+]1=C(C(C2=CC=C(F)C=C2)[O-:1])SC(CCO)=C1C.COC(=O)C(=CC1=CC=CC=C1)C(=O)C(C)C.OCC[N+:2](CCO)(CCO)[H:3].[Br-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,902,"O=C(C1=CC=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8575,"[O-][C:1]1=[CH:2]CCC[CH:3]1[Cl:4].[OH2+][K].[OH2+][Na]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6993,"C[Si-:1](C)(C)([N+]([Ag-][Br])(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)[CH:2]=[C+:3]CC12CCN(C(=O)OCC3=CC=CC=C3)C1N(C(=O)C1=CC=CC=C1)C1=C2C=CC=C1|((1, 2), 3)"
train,pmechdb_split_0,0,2869,"C=CC[NH+:1](C([O-])C1=CC=C(OC)C=C1)[H:2].C=CC[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9678,"C1CC[CH:1]=[C:2]([O-:3])C1.C[C:4](=[O:5])[CH:6]=[CH2:7]|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6886,"CC(C)(C)OC(=O)N1CCC2=C3C=C(C(=O)[O-])NC3=CC=C21.CCOC(=O)N[N:1]([C:2](OCC)=[OH+:3])[P:4](OCCC1=CC=C([N+](=O)[O-])C=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,9917,"N#CC1=CC=C2C=C[CH:1]=[CH:2]C2=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3427,"CCN(CC)C(C)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3540,"CO[P+:1](I)(I)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6224,"CC(C)(C)C(=[NH+]O[Si](C)(C)C)O[S:1](=O)(C(F)(F)F)([O-:2])[O:3]S(=O)(=O)C(F)(F)F.CCN(CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9475,"CCOC(=O)C(CC(C)(NC)[OH:1])C(C)=O.C[NH2+:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,285,"CC(=O)O[Si:1](C)(C)C.C[C-:2](C)C|(2, 1)"
train,pmechdb_split_0,0,2906,"ClC12C3CCC(C3)C(C3CC=CC31)C2[O:1][H:2].[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5415,"C=C1C2(C(=O)OCC)C3=C(C=CC=C3)S(=O)(=O)[NH+:1]2[CH:2]1[N:3](C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8239,"CC(C)(O)[S:1]CCS.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4873,"CO.COC(=O)CCC1=C(C)NC([CH:1]([OH+:2]C)[O:3]C)=C1C.O.O=C([O-])C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8834,"O=[N+]([O-])C1=CC=C(CC[CH2:1][Br:2])C=C1F.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3225,"C=CC([O-])(Cl)[O+:1](CC)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6628,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)([O-])(Cl)[O+:2](N=C(C)C2=CN=CC=C2)[H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8826,"C[C:1]1=[CH:2][NH:3]C2=C1C=CC=C2.O=C(C(F)(F)F)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2582,"[O-]CCCC[C:1](Br)([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5005,"CCCCC(O)[CH:1]([OH2+:2])[O:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7140,"C1=CC=C([CH2:1][Br:2])C=C1.C[S+](C)[O-:3].O=C([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3745,"O=C1OI(=O)([O:1][H:2])C2=C1C=CC=C2.O=C1OI(O)(=[O:3])C2=C1C=CC=C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,742,"CCCCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(CCC)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,7416,"CC1(C)CC[C:1](C)([H:2])[C+:3]1C.CC[OH:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,967,"CC(=O)OC1=CC=CC=C1.C[O:1][H:2].O=C([O][K])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1486,"CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.C[CH:1](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)[O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(COC1=CC=CC=C1)[O-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,252,"CCC(O)[C:1](O)([OH:2])[OH+:3]CC[NH3+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5568,"COC(=O)CC[C:1]1([H:2])C(C)=C[NH+:3]=[C:4]1C.O.O=C([O-])O.[NH3:5]|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,5903,"CC[O:1][H:2].COC1=CC=CC(CCC[C:3](=[CH:4]CC2(C)C(=O)CCC2=O)[O-:5])=C1|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2731,"CCN[C:1](C)([NH+:2](CC)CC)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3243,"CC1CC=C[C:1](=[O:2])[C:3]1(C(=O)OCC[Si](C)(C)C)[H:4].[H:5][Na:6]|((6, 5), 4);((4, 3), 1);((1, 2), 2)"
